US07897597B2
A modification of the general method described in Part B of Example 3 was followed using 8-benzyloxy-2-[2-methoxy(ethoxymethyl)]-1-methyl-1H-imidazo[4,5-c]quinoline (5.4 g, 14 mmol) in lieu of 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline. Dichloromethane (100 mL) was used as the solvent, and after three hours an analysis by TLC indicated the reaction was incomplete. Additional mCPBA (0.5 equivalents) was added, and the reaction was terminated after one additional hour. After the work-up the product was purified by column chromatography on silica gel (eluting with 90:10 dichloromethane:methanol to provide 1.5 g of 8-benzyloxy-2-[2-methoxy(ethoxymethyl)]-1-methyl-5-oxido-1H-imidazo[4,5-c]quinolin as an oil.

reactant | 8-benzyloxy-2-[2-methoxy(ethoxymethyl)]-1-methyl-1H-imidazo[4,5-c]quinoline | 14 mmol, 5.4 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3C)COCCOC | C22H23N3O3
reactant | 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C22H23N3O
reactant | mCPBA | 0.5 equivalents | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-benzyloxy-2-[2-methoxy(ethoxymethyl)]-1-methyl-5-oxido-1H-imidazo[4,5-c]quinolin | 1.5 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=C(N3C)COCCOC | C22H23N3O4
